US06566364B2
1-[2-(Benzofuran-3-yl)ethyl]piperazine
84 mmol of 2-(benzofuran-3-yl)-1-bromoethane, 67 mmol of piperazine and 56 mmol of potassium carbonate are added to 200 ml of acetonitrile. After refluxing for 4 hours, the reaction mixture is cooled and then concentrated. The residue is taken up in dichloromethane, is washed with water, dried, filtered and then concentrated under reduced pressure. Chromatography over silica gel (dichloromethane/ethanol: 90/10) allows the expected product to be isolated.

reactant | 2-(benzofuran-3-yl)-1-bromoethane | 84 mmol | O1C=C(C2=C1C=CC=C2)CCBr | C10H9BrO
reactant | piperazine | 67 mmol | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 56 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-[2-(Benzofuran-3-yl)ethyl]piperazine | O1C=C(C2=C1C=CC=C2)CCN2CCNCC2 | C14H18N2O
